US08580399B2
The synthesis of N-tosyl-3-iodocarbazole is described in WO2009/086028. Into a 250 mL flask was added 9H-pyrido[2,3-b]indole (5 g, 29.7 mmol), N-tosyl-3-iodocarbazole (14.63 g, 32.7 mmol), copper(I) iodide (0.283 g, 1.486 mmol) and potassium phosphate (13.25 g, 62.4 mmol). It was degassed before the addition of anhydrous m-xylene (150 mL) and cyclohexane-1,2-diamine (0.339 g, 2.97 mmol). The resultant green suspension was refluxed for three days. Column chromatography on silica gel (eluent hexane/DCM 1:4, v/v) provided the product 9-(9-tosyl-carbazol-3-yl)-pyrido[2,3-b]indole (9.9 g).

reactant | N-tosyl-3-iodocarbazole | S(=O)(=O)(C1=CC=C(C)C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)I | C19H14INO2S
reactant | 9H-pyrido[2,3-b]indole | 29.7 mmol, 5 g | N1=CC=CC2=C1NC1=CC=CC=C21 | C11H8N2
reactant | N-tosyl-3-iodocarbazole | 32.7 mmol, 14.63 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)I | C19H14INO2S
reactant | potassium phosphate | 62.4 mmol, 13.25 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | cyclohexane-1,2-diamine | 2.97 mmol, 0.339 g | C1(C(CCCC1)N)N | C6H14N2
catalyst | copper(I) iodide | 1.486 mmol, 0.283 g | [Cu]I
solvent | m-xylene | 150 mL | C1(=CC(=CC=C1)C)C | C8H10
product | 9-(9-tosyl-carbazol-3-yl)-pyrido[2,3-b]indole | 9.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)N1C2=C(C3=CC=CC=C13)C=CC=N2 | C30H21N3O2S
